US09107916B2
A. (2-bromo-4-chlorophenyl)methanol
Added BH3 (1M in THF, 40 mL) to a solution of 2-bromo-4-chlorobenzoic acid (3.14 g, 13.33 mmol) in THF (3 mL) drop wise at 0° C. The reaction mixture was stirred at room temperature overnight. Extracted with ethyl acetate twice, and washed the organic phase with brine and dried with anhydrous Na2SO4, concentrated to give the title compound (2.5 g, 85%). 1H NMR (300 MHz, CDCl3): δ 4.72 (2H, s), 7.32 (1H, dd, J=1.8 Hz, 8.1 Hz), 7.43 (1H, d, J=8.1 Hz), 7.56 (1H, d, J=2.1 Hz).

reactant | 2-bromo-4-chlorobenzoic acid | 13.33 mmol, 3.14 g | BrC1=C(C(=O)O)C=CC(=C1)Cl | C7H4BrClO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2-bromo-4-chlorophenyl)methanol | 2.5 g, 85% | BrC1=C(C=CC(=C1)Cl)CO | C7H6BrClO
